US04377695
8-(5-Amino-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester
6.7 g. of 8-(5-Nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester are dissolved in 100 cc. of methanol and the solution is heated to boiling. 20 cc. of water are added to the solution and within 1 hour 13.9 g. of sodium dithionite are added and the mixture is boiled so long until the starting yellow solution is decolourized. Thereafter, the solution is evaporated in a vacuum, the residue is stirred with dilute soda lye and the solid crude product as filtered off with suction. The crude product is washed with water, dried and further purified chromatographically on silicic acid using hexane/ethyl acetate as eluant.

reactant | 8-(5-Nitro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=C(C=C2)[N+](=O)[O-])=O)=O | C16H20N2O6
reactant | methanol | CO | CH4O
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 8-(5-Amino-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=C(C=C2)N)=O)=O | C16H22N2O4
